US08877805B2
Step 1. Synthesis of 4-formyl-2-furancarboxylic acid benzyl ester
3-Furfural (0.96 g, 10 mmol) was dissolved in toluene (10 mL), N,N′-dimethylethylenediamine (1.08 mL, 10.0 mmol) and p-toluenesulfonic acid monohydrate (10 mg, 0.11 mmol) were added, and the mixture was stirred at 105° C. overnight. The solvent was evaporated under reduced pressure and the residue was partitioned between ethyl acetate and 5% aqueous sodium hydrogen carbonate solution. The organic layer was washed with saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was dissolved in tetrahydrofuran (20 mL), 1.54N n-butyllithium/hexane solution (3 mL) was added dropwise at −78° C., and the mixture was stirred for 1 hour. Dry ice was added to the reaction mixture, and the mixture was stirred at room temperature for 2 hour. The solvent was evaporated under reduced pressure, N,N-dimethylformamide (10 mL), potassium carbonate (0.55 g, 4.0 mmol), and benzyl bromide (2.04 g, 11.9 mmol) were added to the obtained residue, and the mixture was stirred at 60° C. overnight. 1N Hydrochloric acid was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give the title compound (0.33 g).

reactant | 3-Furfural | 10 mmol, 0.96 g | C1=COC=C1C=O | C5H4O2
reactant | N,N′-dimethylethylenediamine | 10.0 mmol, 1.08 mL | CNCCNC | C4H12N2
reactant | potassium carbonate | 4.0 mmol, 0.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 11.9 mmol, 2.04 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Hydrochloric acid | 1N | Cl | ClH
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid monohydrate | 0.11 mmol, 10 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-formyl-2-furancarboxylic acid benzyl ester | 0.33 g | C(C1=CC=CC=C1)OC(=O)C=1OC=C(C1)C=O | C13H10O4
